US08283353B2
4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate (15 g), N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-methyl-4H-1,2,4-triazol-3-amine (5 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (1.4 mL) and N,N-diethylaniline (80 mL) was stirred at 180° C. for 16 hr. The obtained reaction mixture was diluted with ethyl acetate, washed 3 times with 1 N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (6.4 g, 57%).

reactant | methyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxoheptanoate | 15 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OC)C(CCCC)=O | C22H23NO3
reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-methyl-4H-1,2,4-triazol-3-amine | 5 g | O1CCOC12CCC(CC2)NC2=NN=C(N2)C | C11H18N4O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-diethylaniline | 80 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 6.4 g, 57% | C(CCC)C1=C(C(N(C=2N1N=C(N2)C)C2CCC1(OCCO1)CC2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C32H35N5O3
